US04283532
Preparation of N-ethyl-N-phenyl-o-(2,6-dichloroanilino)phenylacetamide
A mixture of 6.36 g (0.02 mole) of N-ethyl-N-phenyl-(o-bromophenyl)acetamide having a boiling point of 185° to 190° C. under 2 mmHg, 6.48 g (0.04 mole) of 2,6-dichloroaniline, 3.0 g (0.02 mole) of anhydrous potassium carbonate, 2.0 g of copper powder and 2.0 g of cuprous bromide was reacted in 100 ml of xylene in the same manner as in Example 22 to obtain 6.1 g of a colorless prism having a melting point of 121° to 123° C. The yield was 77.4%.

reactant | N-ethyl-N-phenyl-(o-bromophenyl)acetamide | 0.02 mole, 6.36 g | C(C)N(C(CC1=C(C=CC=C1)Br)=O)C1=CC=CC=C1 | C16H16BrNO
reactant | 2,6-dichloroaniline | 0.04 mole, 6.48 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | potassium carbonate | 0.02 mole, 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | copper | 2.0 g | [Cu] | Cu
product | N-ethyl-N-phenyl-o-(2,6-dichloroanilino)phenylacetamide | yield was 77.4% | C(C)N(C(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O)C1=CC=CC=C1 | C22H20Cl2N2O
